US06455528B1
(1) 1-(5-Nitrothiazol-2-yl)piperazine
To a solution of piperazine (18.2 g) and potassium carbonate (12.6 g) in acetonitrile (150 ml) was added 2-bromo-5-nitrothiazole (14.7 g) at 40° C. and the mixture was stirred at 60° C. for 40 min. The reaction mixture was poured into water and extracted with chloroform. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated to give a brown solid (11.2 g). The obtained brown solid was purified by silica gel column chromatography (developing solvent; chloroform:methanol=9:1) to give the title compound (4.8 g) as yellow crystals.

reactant | piperazine | 18.2 g | N1CCNCC1 | C4H10N2
reactant | potassium carbonate | 12.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-5-nitrothiazole | 14.7 g | BrC=1SC(=CN1)[N+](=O)[O-] | C3HBrN2O2S
reactant | water | O | H2O
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 1-(5-Nitrothiazol-2-yl)piperazine | 11.2 g | [N+](=O)([O-])C1=CN=C(S1)N1CCNCC1 | C7H10N4O2S
